US09255090B2
A solution of 5-bromo-2-(propenyl)-phenol (mixture of E- and Z-isomer ca. 85:15) (1.10 g, 4.99 mmol, 1.0 eq.) in DMF (15 mL) was slowly added to sodium hydride 60% dispersion in mineral oil (261 mg, 6.52 mmol, 1.3 eq.) at 0° C. under N2. Upon completion of the addition, the mixture was allowed to warm to r.t. Benzyl bromide (0.61 mL, 4.99 mmol, 1.0 eq.) was added and the resulting mixture was stirred at r.t. for 18 hours. AcOEt was added and the reaction was stirred at r.t. for 30 min. Water was added to the mixture. The layers were separated and the org. phase was washed with water and sat. aq. NaCl soln., dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 30 fractions of 45 mL, Heptane 100% to Heptane+10% AcOEt) to yield 2-benzyloxy-4-bromo-1-(propenyl)-benzene as a pale yellow oil as an unseparable mixture of E- and Z-isomers (ca. 9/1).

reactant | 5-bromo-2-(propenyl)-phenol | 4.99 mmol, 1.10 g, 1.0 eq. | BrC=1C=CC(=C(C1)O)C=CC | C9H9BrO
reactant | sodium hydride | [H-].[Na+]
reactant | Benzyl bromide | 4.99 mmol, 0.61 mL, 1.0 eq. | C(C1=CC=CC=C1)Br | C7H7Br
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 2-benzyloxy-4-bromo-1-(propenyl)-benzene | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Br)C=CC | C16H15BrO
